US08754209B2
The mixture of 1-tert-butyl 3-ethyl 6-bromo-1H-indazole-1,3-dicarboxylate (1.3 g), p-nitrophenyl boronic acid (666 mg), Pd (dppf)Cl2 (92 mg), and potassium carbonate (1 g) in N,N-dimethylformamide/water (4:1, 20 Ml) was stirred at room temperature for 24 h. Ethyl acetate and water were added. The organic layer was separated, washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by flash column chromatography (silica gel, EA only) to give 1-tert-butyl 3-ethyl 6-(4-nitrophenyl)-1H-indazole-1,3-dicarboxylate (1.3 g).

reactant | 1-tert-butyl 3-ethyl 6-bromo-1H-indazole-1,3-dicarboxylate | 1.3 g | BrC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)C(=O)OCC | C15H17BrN2O4
reactant | p-nitrophenyl boronic acid | 666 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide water | CN(C=O)C.O
solvent | water | O | H2O
product | 1-tert-butyl 3-ethyl 6-(4-nitrophenyl)-1H-indazole-1,3-dicarboxylate | 1.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)C(=O)OCC | C21H21N3O6
